US05616590
Preparation of 3-diethylthiocarbamoyloxy-2-fluoropyridine:
36.2 g (358 mmol) of triethylamine and 54.3 g (358 mmol) of diethylthiocarbamoyl chloride are added in succession to a suspension of 36.7 g (325 mmol) of 2-fluoro-3-hydroxypyridine in 150 ml of toluene at room temperature, and the reaction mixture is heated at 75° C. After the reaction mixture has been stirred at this temperature for 1 hour, it is cooled to room temperature, diluted with ethyl acetate, washed 3 times with water, dried over Na2SO4 and concentrated in vacuo at 60° C.; 80 g of brown oil which, after recrystallization from Et2O/hexane, gave 64.2 g (86%) of brown crystals of m.p. 52°-54° C.

reactant | triethylamine | 358 mmol, 36.2 g | C(C)N(CC)CC | C6H15N
reactant | diethylthiocarbamoyl chloride | 358 mmol, 54.3 g | C(C)N(C(=S)Cl)CC | C5H10ClNS
reactant | 2-fluoro-3-hydroxypyridine | 325 mmol, 36.7 g | FC1=NC=CC=C1O | C5H4FNO
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-diethylthiocarbamoyloxy-2-fluoropyridine | 64.2 g, 86% | C(C)N(C(=S)OC=1C(=NC=CC1)F)CC | C10H13FN2OS
